*$
* CLC406 Macromodel Net List--- Subcircuit Format (MMD.06) 
*
*   This is a Wide band Low Cost, Low Power Monolithic 
*   Current Feedback Op Amp.
*
* Version 1, Rev. C, Date 07-08-94, by KEB 
*
* Connections: Non-Inverting Input
*              | Inverting
*              | | Output
*              | | | +Vcc
*              | | | | -Vee
*              | | | | |
*              | | | | |
*              | | | | |
*              | | | | |
.SUBCKT CLC406 3 2 6 7 4
*
* BIAS BLOCK
*
G1 7 10 POLY(1) 7 14 123U 1.674M
C2 10 0 644F
C3 10 14 143F
R1 7 14 524
*
G3 16 4 POLY(1) 13 4 0 1.649M
C5 16 0 551F
C4 13 16 84.0F
R2 13 4 532
*
* INPUT STAGE
*
C1 3 0 1.00P
E1 3 12 POLY(2) 50 0 51 0 -1.50M 1.00 1.00 
G2 12 0 POLY(2) 52 0 53 0 0 1.00M 1.00M
*
D1 10 11 DX
Q1 13 12 11 QINP
Q2 14 12 15 QINN
D2 15 16 DX
*
G4 21 0 POLY(2) 54 0 55 0 -14.0U 1.00M 1.00M 
Q3 21 10 22 QINN
D3 22 2 DX
C6 2 0 2.07P
D4 2 23 DX
Q4 24 16 23 QINP
*
* GAIN STAGE
*
R3 7 20 591
V1 20 21 1.96
C7 21 31 131F
G5 7 31 POLY(2) 7 20 7 31 0 3.881M 7.32U 
V3 7 30 1.96
D5 31 30 DOR
G7 7 40 POLY(1) 7 20 0 4.633M
C10 21 40 217F
C11 40 0 475F
C14 21 6 300F
*
R4 25 4 589
V2 24 25 2.05
C9 24 31 76.6F
G6 31 4 POLY(2) 25 4 31 4 0 3.997M 1.05U 
V4 32 4 2.44
D6 32 31 DOR
G8 42 4 POLY(1) 25 4 0 2.229M
C12 24 42 139F
C13 42 0 634F
C16 24 6 300F
*
* OUTPUT STAGE
*
C8 31 0 474F
Q5 4 31 40 QOUTP1
Q6 7 31 41 QOUTN1 0.67
D7 41 42 DX 1.88
Q7 7 31 43 QOUTN1 0.33
Q8 4 42 43 QOUTP1 0.50
*
Q9 7 40 6 QOUTN2
C15 6 0 2.50P
Q10 4 43 6 QOUTP2
*
* NOISE BLOCKS
*
I1 51 50 DC 121U
D8 50 0 DN1
D9 0 51 DN1
*
I2 53 52 DC 413U
D10 52 0 DN2
D11 0 53 DN2
*
I3 55 54 DC 14.3U
D12 54 0 DN3
D13 0 55 DN3
*
* MODELS
*
.MODEL DN1 D IS=0.166F KF=4.48F AF=1.00 
.MODEL DN2 D IS=0.166F KF=82.4F AF=1.00 
.MODEL DN3 D IS=0.166F KF=47.6F AF=1.00 
.MODEL DOR D TT=100N
.MODEL DX D IS=0.165F RS=583M CJO=159F M=495M VJ=797M TT=25.5P 
*
.MODEL QINN NPN
+ IS =1.652E-16 BF =3.239E+02 NF =1.000E+00 VAF=4.229E+01 
+ IKF=2.462E-02 ISE=2.956E-17 NE =1.197E+00 BR =3.719E+01 
+ NR =1.000E+00 VAR=1.696E+00 IKR=3.964E-02 ISC=1.835E-19 
+ NC =1.700E+00 RB =1.180E+02 IRB=0.000E+00 RBM=6.506E+01 
+ RE =5.613E-01 RC =2.645E+01 CJE=1.588E-13 VJE=7.973E-01 
+ MJE=4.950E-01 TF =1.948E-11 XTF=1.873E+01 VTF=2.825E+00 
+ ITF=5.955E-02 PTF=0.000E+00 CJC=1.720E-13 VJC=8.046E-01 
+ MJC=4.931E-01 XCJC=8.61E-01 TR =4.212E-10 CJS=1.136E-12 
+ VJS=5.723E-01 MJS=0.000E+00 FC =9.765E-01
*
.MODEL QOUTN1 NPN
+ IS =7.822E-16 BF =3.239E+02 NF =1.000E+00 VAF=8.457E+01 
+ IKF=9.079E-02 ISE=1.090E-16 NE =1.197E+00 BR =3.960E+01 
+ NR =1.000E+00 VAR=1.696E+00 IKR=1.462E-01 ISC=5.656E-19 
+ NC =1.700E+00 RB =1.843E+01 IRB=0.000E+00 RBM=4.083E+00 
+ RE =1.522E-01 RC =6.141E+00 CJE=5.858E-13 VJE=7.973E-01 
+ MJE=4.950E-01 TF =1.874E-11 XTF=1.873E+01 VTF=2.825E+00 
+ ITF=2.196E-01 PTF=0.000E+00 CJC=5.143E-13 VJC=8.046E-01 
+ MJC=4.931E-01 XCJC=1.71E-01 TR =1.069E-09 CJS=8.567E-13 
+ VJS=5.723E-01 MJS=4.105E-01 FC =9.765E-01
*
.MODEL QOUTN2 NPN
+ IS =1.880E-15 BF =3.239E+02 NF =1.000E+00 VAF=8.457E+01 
+ IKF=2.182E-01 ISE=2.620E-16 NE =1.197E+00 BR =3.971E+01 
+ NR =1.000E+00 VAR=1.696E+00 IKR=3.513E-01 ISC=1.348E-18 
+ NC =1.700E+00 RB =3.267E+01 IRB=0.000E+00 RBM=2.670E+01 
+ RE =1.006E+01 RC =3.738E+00 CJE=1.408E-12 VJE=7.973E-01 
+ MJE=4.950E-01 TF =1.871E-11 XTF=1.873E+01 VTF=2.825E+00 
+ ITF=5.278E-01 PTF=0.000E+00 CJC=1.224E-12 VJC=8.046E-01 
+ MJC=4.931E-01 XCJC=9.27E-01 TR =1.296E-09 CJS=1.496E-12 
+ VJS=5.723E-01 MJS=4.105E-01 FC =9.765E-01
*
.MODEL QINP PNP
+ IS =1.652E-16 BF =7.165E+01 NF =1.000E+00 VAF=1.720E+01 
+ IKF=1.882E-02 ISE=6.380E-16 NE =1.366E+00 BR =1.833E+01 
+ NR =1.000E+00 VAR=1.805E+00 IKR=1.321E-01 ISC=3.666E-18 
+ NC =1.634E+00 RB =7.876E+01 IRB=0.000E+00 RBM=5.757E+01 
+ RE =6.118E-01 RC =3.739E+01 CJE=1.588E-13 VJE=7.975E-01 
+ MJE=5.000E-01 TF =3.156E-11 XTF=5.386E+00 VTF=2.713E+00 
+ ITF=5.084E-02 PTF=0.000E+00 CJC=2.725E-13 VJC=7.130E-01 
+ MJC=4.200E-01 XCJC=8.61E-01 TR =1.096E-09 CJS=1.136E-12 
+ VJS=6.691E-01 MJS=0.000E+00 FC =8.803E-01
*
.MODEL QOUTP1 PNP
+ IS =4.744E-16 BF =7.165E+01 NF =1.000E+00 VAF=3.439E+01 
+ IKF=6.940E-02 ISE=2.353E-15 NE =1.366E+00 BR =1.948E+01 
+ NR =1.000E+00 VAR=1.805E+00 IKR=4.873E-01 ISC=1.322E-17 
+ NC =1.634E+00 RB =7.797E+00 IRB=0.000E+00 RBM=2.052E+00 
+ RE =1.659E-01 RC =1.037E+01 CJE=5.858E-13 VJE=7.975E-01 
+ MJE=5.000E-01 TF =3.073E-11 XTF=5.386E+00 VTF=2.713E+00 
+ ITF=1.875E-01 PTF=0.000E+00 CJC=8.147E-13 VJC=7.130E-01 
+ MJC=4.200E-01 XCJC=1.71E-01 TR =2.119E-09 CJS=1.364E-12 
+ VJS=6.691E-01 MJS=3.950E-01 FC =8.803E-01
*
.MODEL QOUTP2 PNP
+ IS =1.140E-15 BF =7.165E+01 NF =1.000E+00 VAF=3.439E+01 
+ IKF=1.668E-01 ISE=5.655E-15 NE =1.366E+00 BR =1.953E+01 
+ NR =1.000E+00 VAR=1.805E+00 IKR=1.171E+00 ISC=3.173E-17 
+ NC =1.634E+00 RB =2.825E+01 IRB=0.000E+00 RBM=2.585E+01 
+ RE =1.006E+01 RC =6.213E+00 CJE=1.408E-12 VJE=7.975E-01 
+ MJE=5.000E-01 TF =3.070E-11 XTF=5.386E+00 VTF=2.713E+00 
+ ITF=4.506E-01 PTF=0.000E+00 CJC=1.939E-12 VJC=7.130E-01 
+ MJC=4.200E-01 XCJC=9.27E-01 TR =2.704E-09 CJS=2.351E-12 
+ VJS=6.691E-01 MJS=3.950E-01 FC =8.803E-01
*
.ENDS 